US08084448B2
5-[2-Hydroxy-4-(6-methoxybenzofuran-3-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and 6-methoxybenzofuran-3-one analogous to Example 274: (M−1)−=373; HPLC retention time=1.09 min. (Method A).

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 6-methoxybenzofuran-3-one | COC1=CC2=C(C(CO2)=O)C=C1 | C9H8O3
product | 5-[2-Hydroxy-4-(6-methoxybenzofuran-3-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C1=COC2=C1C=CC(=C2)OC)N2CC(NS2(=O)=O)=O | C17H14N2O6S
